US09079914B2
(2) Synthesis of 5-fluoromethoxypyrazine-2-carboxylic acid
Potassium trimethylsilanolate (18.6 mg) was added to a solution of methyl 5-fluoromethoxypyrazine-2-carboxylate obtained in Preparation Example 15-(1) (18.0 mg) in THF (1.0 mL). The reaction solution was stirred at RT for 1 h. Water and EtOAc were added to the reaction solution, and the aqueous layer was separated. The aqueous layer was made acidic with 1 M hydrochloric acid, followed by extraction with EtOAc. The organic layer was dried over anhydrous MgSO4. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure to obtain a crude product of the title compound (10.2 mg). The compound was used for the next reaction without further purification. 1H-NMR (400 MHz, CDCl3) δ (ppm): 6.16 (d, J=50.8 Hz, 2H), 8.34 (d, J=1.4 Hz, 1H), 9.05 (d, J=1.4 Hz, 1H).

reactant | Potassium trimethylsilanolate | 18.6 mg | C[Si]([O-])(C)C.[K+]
reactant | methyl 5-fluoromethoxypyrazine-2-carboxylate | FCOC=1N=CC(=NC1)C(=O)OC | C7H7FN2O3
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 5-fluoromethoxypyrazine-2-carboxylic acid | 10.2 mg | FCOC=1N=CC(=NC1)C(=O)O | C6H5FN2O3
